US04971993
N-benzenesulfonylglycyl-L-proline benzylester (1.91 g, 4.7 mmole) was dissolved in methanol (6 ml), 1N aqueous sodium hydrochloride (6 ml) was added, and stirred for 3 hours at a temperature between 30° C. and 35° C. Water (20 ml) was added to the solution and the mixture was washed with two 20 ml portions of diethyl ether and then adjusted to pH 1.5 with 1N aqueous hydrochloric acid. The solvent was removed by distillation under reduced pressure and the solid material thus obtained was dispersed in ethyl acetate (50 ml) and the mixture was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to give a glassy residue and it was recrystallized from ethyl acetate and petroleum ether to obtain N-benzenesulfonylglycyl-L-proline(yield: 0.67 g, 45.2%).

reactant | N-benzenesulfonylglycyl-L-proline benzylester | 4.7 mmole, 1.91 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C(CNS(=O)(=O)C1=CC=CC=C1)=O)=O | C20H22N2O5S
reactant | sodium hydrochloride | 1N, 6 ml | Cl.[Na]
reactant | Water | 20 ml | O | H2O
solvent | methanol | 6 ml | CO | CH4O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-benzenesulfonylglycyl-L-proline | yield: 0.67 g, 45.2% | C1(=CC=CC=C1)S(=O)(=O)NCC(=O)N1[C@H](C(=O)O)CCC1 | C13H16N2O5S
